US08664210B2
To a solution of androst-5-ene-3,17-dione (2.00 g) in toluene (10 ml) at 15° C., AcOH (10 ml) and LTA (3.40 g) were added. After stirring for 2 h, the mixture was warmed to RT and stirred for 24 h. The reaction was quenched by addition of H2O and extracted three times with EtOAc. The combined organic extracts were washed with H2O, brine, dried over Na2SO4, and evaporated to dryness. The crude product was purified by triturating with a 1:1 mixture of n-hexane:EtOAc (3 ml) to give 4α-acetoxyandrost-5-ene-3,17-dione (600 mg, 25%).

reactant | androst-5-ene-3,17-dione | 2.00 g | C[C@@]12C(CC[C@H]1[C@@H]1CC=C3CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H26O2
reactant | AcOH | 10 ml | CC(=O)O | C2H4O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4α-acetoxyandrost-5-ene-3,17-dione | 600 mg, 25% | C(C)(=O)O[C@H]1C2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C21H28O4
